US07053212B2
Step A: 3-Methyl-4-(tetrahydro-pyran-2-yloxy)-benzaldehyde
To a solution of 4-hydroxy-3-methylbenzaldehyde (3.0 g, 22.03 mmol) in 45 mL methylene chloride was added 3,4-dihydro-2H-pyran (5.0 mL, 54.8 mmol) and pyridinium p-toluenesulfonate (0.55 g, 2.19 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with three portions of methylene chloride. The combined organic layers were washed with saturated aqueous sodium chloride, dried (sodium sulfate), filtered, and concentrated. Silica gel flash chromatography of the residue (10% ether/hexanes to 20% ether/hexanes) afforded 4.35 g of the title compound of Step A. MS 221.1 (M+1)+

reactant | 4-hydroxy-3-methylbenzaldehyde | 22.03 mmol, 3.0 g | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | 3,4-dihydro-2H-pyran | 54.8 mmol, 5.0 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.19 mmol, 0.55 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-4-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 4.35 g | CC=1C=C(C=O)C=CC1OC1OCCCC1 | C13H16O3
